US03951967
3-Ethoxycarbonyl-6-trifluoromethyl-7-isopropylthio-1,2,4-benzothiadiazine-1,1-dioxide
This product is prepared by replacing the orthanilamide, the acetyl chloride and the ammonium hydroxide employed in Example 27 by equivalent quantities of 2-sulfamoyl-4-isopropylthio-5-trifluoromethylaniline, ethyl oxalyl chloride and trimethylamine, respectively and otherwise following substantially the same procedure described in Example 27.

reactant | orthanilamide | C1=CC=C(C(=C1)N)S(=O)(=O)N | C6H8N2O2S
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | 2-sulfamoyl-4-isopropylthio-5-trifluoromethylaniline | S(N)(=O)(=O)C1=C(N)C=C(C(=C1)SC(C)C)C(F)(F)F | C10H13F3N2O2S2
reactant | trimethylamine | CN(C)C | C3H9N
product | 3-Ethoxycarbonyl-6-trifluoromethyl-7-isopropylthio-1,2,4-benzothiadiazine-1,1-dioxide | C(C)OC(=O)C=1NS(C2=C(N1)C=C(C(=C2)SC(C)C)C(F)(F)F)(=O)=O | C14H15F3N2O4S2
